US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde (0.209 g, 0.56 mmol) and methyl 3-hydroxyazetidine-3-carboxylate acetate (0.14 g, 0.73 mmol) according to Reference R and general procedure for reductive amination afforded methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-methyl)-3-hydroxyazetidine-3-carboxylate. MS (ESI) m/z: Calculated: 489.2; Observed: 490.0 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde | 0.56 mmol, 0.209 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | methyl 3-hydroxyazetidine-3-carboxylate acetate | 0.73 mmol, 0.14 g | C(C)(=O)O.OC1(CNC1)C(=O)OC
product | methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-methyl)-3-hydroxyazetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)(C(=O)OC)O | C27H24FN3O3S
